US07238489B2
Purification of Sortase by Addition of Histidine Tag
Reactions were assembled in a volume of 260 μl containing 50 mM Hoes buffer, 150 mM NaCl, pH 7.5 and as indicated 5 μM SrtA-DN in 50 mM BisTris, pH 7.5, 10 AM LPXTG (SEQ ID NO: 1) peptide (DABCYL-QALPETGEE-EDANS) (QALPETGEE is SEQ. ID NO: 39), 10 μM TGXLP (SEQ ID NO 45) peptide (DABCYL-QATGELPEE-EDANS) (QATGELPEE is SEQ ID NO: 46), 5 mM MTSET, 0.2 M NH-2-OH, 5 mM pHMB or 10 mM DTT. Incubations were carried out for 1 hour at 37° C. Samples were analyzed in a fluorimeter using 395 nm for excitation and 495 nm for recordings.

reactant | NaCl | 150 mM | [Na+].[Cl-]
reactant | MTSET | 5 mM | C[N+](C)(C)CCSS(=O)(=O)C.[Br-]
reactant | pHMB | 5 mM | CCCCCCN=C(N)N=C(N)N | C8H19N5
reactant | DTT | 10 mM | C([C@H]([C@@H](CS)O)O)S | C4H10O2S2
reactant | BisTris | 50 mM | C(CO)N(CCO)C(CO)(CO)CO | C8H19NO5
product | Histidine | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
